US04758577
0.78 gram (20.6 millimoles) of lithium aluminum hydride was added in small portions under argon atmosphere to a solution of the above prepared cinnamoylpiperidine in 50 milliliters of dry tetrahydrofuran to obtain 4-(5H-dibenzo[a,d]cyclohepten-5-yl)-1-cinnamylpiperidine in the reaction mixture. The latter was recovered in the usual manner, i.e., diluting with tetrahydrofuran, quenching by the "n,n,3n" method, drying the solution over magnesium sulfate, vaporizing the solvent in vacuo from the filtered dried solution thereby obtaining a residue, flash chromatographing the residue on silica gel employing 75/25 ethyl acetate-hexane as eluant to produce 681 grams of a purified 4-(5H-dibenzo[a,d]cyclohepten-5-yl)-1-cinnamylpiperidine base product. The base was dissolved in methanol and a solution of 219 milligrams (1 equivalent) oxalic acid dihydrate in 2 milliliters of methanol added to the solution of the base and the resulting mixture allowed to stand overnight to obtain 4-(5H-dibenzo[a,d]cyclohepten-5-yl)-1-cinnamylpiperidine hydrogen oxalate product as crystals melting 218°-220° C. The product had elemental analyses as follows:

reactant | lithium aluminum hydride | 20.6 millimoles, 0.78 gram | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | cinnamoylpiperidine | C(C=CC1=CC=CC=C1)(=O)N1CCCCC1 | C14H17NO
reactant | tetrahydrofuran | 50 milliliters | O1CCCC1 | C4H8O
product | 4-(5H-dibenzo[a,d]cyclohepten-5-yl)-1-cinnamylpiperidine | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)C3CCN(CC3)CC=CC3=CC=CC=C3 | C29H29N
